US06090833
6-Ethynyl-2-phenyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide
This compound is prepared analogously to the process described in Example 1c using 2-bromo-5-ethynylindan-1-one and thiobenzamide; melting point: 133-134° C. (dec.).

reactant | 2-bromo-5-ethynylindan-1-one | BrC1C(C2=CC=C(C=C2C1)C#C)=O | C11H7BrO
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
product | 6-Ethynyl-2-phenyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.C(#C)C1=CC=2CC3C(N=C(S3)C3=CC=CC=C3)(C2C=C1)O | InChI=1S/C18H13NOS.BrH/c1-2-12-8-9-15-14(10-12)11-16-18(15,20)19-17(21-16)13-6-4-3-5-7-13;/h1,3-10,16,20H,11H2;1H
